US05811459
4-[3-(2-Benzyloxy-4-bromophenyl)propyl]benzoic acid (mpt 141°-142° C.) was prepared from a mixture of 4-[3-(2-benzyloxy-4-bromophenyl)prop-2-enyl]benzoic acid and 4-[3-(2-benzyloxy-4-bromophenyl)prop-1-enyl]benzoic acid by a similar method to that of Example 7, (E). The mixture of alkenes was prepared from 2-benzyloxy-4-bromobenzaldehyde and 4-carboxyphenethyltriphenylphosphonium bromide by a similar method to that of Example 1, (G).

reactant | 4-[3-(2-benzyloxy-4-bromophenyl)prop-2-enyl]benzoic acid | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Br)C=CCC1=CC=C(C(=O)O)C=C1 | C23H19BrO3
reactant | 4-[3-(2-benzyloxy-4-bromophenyl)prop-1-enyl]benzoic acid | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Br)CC=CC1=CC=C(C(=O)O)C=C1 | C23H19BrO3
reactant | 2-benzyloxy-4-bromobenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)Br | C14H11BrO2
reactant | 4-carboxyphenethyltriphenylphosphonium bromide | [Br-].C(=O)(O)C1=CC=C(CC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
product | 4-[3-(2-Benzyloxy-4-bromophenyl)propyl]benzoic acid | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Br)CCCC1=CC=C(C(=O)O)C=C1 | C23H21BrO3
